US05244908
(1) Synthesis of 5-[2-(methoxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine (Compound 128)
To a solution of 5-[2-(amino)ethylthio]imidazo[1,2-a]pyridine (1.93 g, 10 mmoles) and triethylamine (1.53 ml, 11 mmoles) in methylene chloride (30 ml) was added methyl chloroformate (0.77 ml, 10 mmoles) under ice-cooling with stirring and the mixture was stirred at room temperature for 20 minutes. The reaction mixture was washed in turn with an aqueous sodium bicarborate solution and water, dried over anhydrous magnesium sulfate, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethanol/ethyl acetate=1:10) to obtain 1.68 g of the desired product (66.9%, colorless crystals).

reactant | 5-[2-(amino)ethylthio]imidazo[1,2-a]pyridine | 10 mmoles, 1.93 g | NCCSC1=CC=CC=2N1C=CN2 | C9H11N3S
reactant | triethylamine | 11 mmoles, 1.53 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 10 mmoles, 0.77 ml | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-(methoxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine | 1.68 g, 66.9% | COC(=O)NCCSC1=CC=CC=2N1C=CN2 | C11H13N3O2S
